US05654301
Synthesis of α-Acetamido-N-benzyl-1-(dimethylsulfamoyl)imidazole-4-acetamide.
To a cooled (-78° C.) THF solution (150 mL) of 2-acetamido-N-benzyl-2-bromoacetamide (prepared from 2-acetamido-N-benzyl-2-ethoxyacetamide (2.00 g, 8.0 mmol) and BBr3 (1M solution in CH2Cl2, 9.0 mL, 9.0 mmol)) was added Et3N (1.62 g, 16.0 mmol), and then a THF solution of the 2-lithio salt of N,N-dimethylimidazole-1-sulfonamide (generated by the addition of n-BuLi (2.5M in hexane, 3.9 mL, 9.68 mmol) into a cooled (-78° C.) THF solution (25 mL) of N,N-dimethylimidazole-1-sulfonamide (1.54 g, 8.8 mmol)) was added during a 15 min interval. The reaction mixture was stirred at this temperature (30 min) and then at room temperature (45 min). A saturated aqueous NH4Cl solution (50 mL) and H2O (50 mL) were then sucessively added to the reaction, and the aqueous mixture was extracted with EtOAc (3×50 mL). The combined extracts were dried (Na2SO4), and the volatile materials were removed by distillation in vacuo. The residue was purified by flash column chromatography on SiO2 gel (4% MeOH/CHCl3) to give 0.50 g (17%) of the desired product: mp 145°-147° C. (recrystallized from EtOAc/hexane); Rf 0.35 (4% MeOH/CHCl3); IR (KBr) 3400, 1640, 1530, 1380, 720 cm-1 ; 1H NMR (DMSO-d6) δ 1.96 (s, C(O)CH3), 2.77 (s, N(CH3)2), 4.25 (dd, J=6.0, 15.5 Hz, CHH), 4.34 (dd, J=6.0, 15.5 Hz, CHH), 5.43 (d, J=8.0, Hz, CH), 7.19-7.30 (m, 5 PhH), 7.40 (s, C5H), 8.17 (s, C2H), 8.42 (d, J=8.0 Hz, NH), 8.67 (t, J=6.0 Hz, NH); 13C NMR (DMSO-d6) 22.42 (C(O)CH3), 37.80 (N(CH3)2), 42.11 (CH2), 51.40 (CH), 115.50 (C5), 126.64 (C4'), 126.94 (2C2' or 2C3'), 128.12 (2C2' or 2C3'), 136.70 (C2), 139.17 (C1'), 140.26 (C4), 168.93 (C(O)NH), 169.09 (C(O)CH3) ppm; mass spectrum (FD) 380 (M+ +1, 34), 248 (13), 247 (100), 108 (64).

reactant | 2-acetamido-N-benzyl-2-bromoacetamide | 8.0 mmol, 1M, 9.0 mL, 2.00 g | C(C)(=O)NC(C(=O)NCC1=CC=CC=C1)Br | C11H13BrN2O2
reactant | Et3N | 16.0 mmol, 1.62 g | CCN(CC)CC | C6H15N
reactant | N,N-dimethylimidazole-1-sulfonamide | CN(S(=O)(=O)N1C=NC=C1)C | C5H9N3O2S
reactant | n-BuLi | 9.68 mmol, 2.5M, 3.9 mL | [Li]CCCC
reactant | N,N-dimethylimidazole-1-sulfonamide | 8.8 mmol, 1.54 g | CN(S(=O)(=O)N1C=NC=C1)C | C5H9N3O2S
reactant | NH4Cl | 50 mL | [NH4+].[Cl-]
solvent | H2O | 50 mL | O | H2O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | α-Acetamido-N-benzyl-1-(dimethylsulfamoyl)imidazole-4-acetamide | 0.50 g, 17% | C(C)(=O)NC(C(=O)NCC1=CC=CC=C1)C=1N=CN(C1)S(N(C)C)(=O)=O | C16H21N5O4S
